US08791161B2
4-Chloro-N,N-dimethyl-butyramide
To a solution of 4-chloro-butyryl chloride (1.12 ml, 10.0 mmol) and dimethyl-amine hydrochloride (4.1 g, 50.0 mmol) in THF at 5° C. was added 2M NaOH (30 ml, 60.0 mmol) dropwise over 30 minutes while maintaining reaction temperature between 5-10° C. The reaction was stirred for additional 1.5 h and was concentrated, extracted with EtOAc (×2). The combined organic layer was washed with 1M HCl (×2), brine, dried over Na2SO4, and concentrated in vacuo to yield the title compound as colorless oil (1.5 g, ˜100%). The crude was used without further purification.

reactant | 4-chloro-butyryl chloride | 10.0 mmol, 1.12 ml | ClCCCC(=O)Cl | C4H6Cl2O
reactant | dimethyl-amine hydrochloride | 50.0 mmol, 4.1 g | Cl.CNC
reactant | NaOH | 60.0 mmol, 2M, 30 ml | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-Chloro-N,N-dimethyl-butyramide | 1.5 g, ~100% | ClCCCC(=O)N(C)C | C6H12ClNO
